US08044068B2
A solution (0.67 mL) of 3 M methyl magnesium chloride in THF was added dropwise to a mixture of 2,4-dichlorothieno[3,4-b]pyridine (0.37 g), iron(III) acetylacetonate (0.064 g), N-methyl-2-pyrrolidinone (1 mL), and THF (15 mL) with ice cooling, and the mixture was stirred at room temperature for 20 h. The reaction solution was diluted with water, and the mixture was extracted with chloroform. The organic layer was dried with anhydrous magnesium sulfate, then the desiccant was removed by filtration, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (silica gel and NH silica gel, ethyl acetate/hexane=20:1-10:1) to obtain 2-chloro-4-methylthieno[3,4-b]pyridine (0.027 g).

reactant | methyl magnesium chloride | 3 M, 0.67 mL | C[Mg]Cl
reactant | 2,4-dichlorothieno[3,4-b]pyridine | 0.37 g | ClC=1C=C(C=2C(N1)=CSC2)Cl | C7H3Cl2NS
reactant | N-methyl-2-pyrrolidinone | 1 mL | CN1C(CCC1)=O | C5H9NO
solvent | THF | C1CCOC1 | C4H8O
solvent | water | O | H2O
catalyst | iron(III) acetylacetonate | 0.064 g | C/C(=C/C(=O)C)/[O-].C/C(=C/C(=O)C)/[O-].C/C(=C/C(=O)C)/[O-].[Fe+3]
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 2-chloro-4-methylthieno[3,4-b]pyridine | 0.027 g | ClC=1C=C(C=2C(N1)=CSC2)C | C8H6ClNS
